US07419997B2
N-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2,6-difluorobenzamide was prepared from 2,6-difluorobenzoylchloride and 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine in a similar manner as described above to give a white solid: 1H-NMR (CDCl3): δ 8.80 (s, 1H), 7.60 (m, 1H), 7.35 (m, 1H), 7.23 (overlapped dd and d, 2H), 6.94 (t, 2H), 6.37 (d, 1H), 5.35 (m, 1H), 2.7 (m, 2H), 2.26 (m, 1H), 1.95 (m, 3H); MS m/z 404 (M−1).

reactant | 2,6-difluorobenzoylchloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
product | N-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2,6-difluorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1F)F)=O | C19H15BrF2N2O
